US08957203B2
2-(2-chloro-6-cyanophenyl)acetic acid (10.5 g, 53.7 mmol) and SOCl2 (20 mL, 274 mmol) were stirred in dichloromethane (25 mL) at RT. The suspension became a solution over 4 h. The reaction was stirred overnight. The volitile organics were removed under vacuum and the residue was taken up in DCM and filtered. The filtrate was concentrated and then dissolved in 4 N HCl dioxane (30 mL) and transfered to a sealed vessel and heated to 60° C. for 3 h. The reaction was cooled and the solid was collected, washed with dioxane, and dried under vacuum to give the product 1,5-dichloroisoquinolin-3-ol (8 g, 69.6% yield) as a solid 1H NMR (400 MHz, DMSO-d6) δ 11.66 (s, 1H), 8.11 (dt, J=8.6, 1.0 Hz, 1H), 7.90 (dd, J=7.6, 1.0 Hz, 1H), 7.46 (dd, J=8.6, 7.6 Hz, 1H), 7.11 (d, J=1.0 Hz, 1H). MS: MS m/z 214.08(M++1).

reactant | 2-(2-chloro-6-cyanophenyl)acetic acid | 53.7 mmol, 10.5 g | ClC1=C(C(=CC=C1)C#N)CC(=O)O | C9H6ClNO2
reactant | SOCl2 | 274 mmol, 20 mL | O=S(Cl)Cl | Cl2OS
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 1,5-dichloroisoquinolin-3-ol | 8 g, 69.6% yield | ClC1=NC(=CC2=C(C=CC=C12)Cl)O | C9H5Cl2NO
